US08980887B2
N-benzyl-N-ethyl-2-(4-methylphenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide (Compound 13)
According to the method of Example 13, 2-(4-methylphenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-benzyl-2-methoxyethylamine were used as raw materials for synthesis, to obtain yellow solid powder, yield 54.6%. m.p. 220-222° C., ESm/z: 398[M+H]+, 1H NMR(CDCl3, 400 MHz)δ: 1.14(t, 1.5H, J=7.00 Hz), 1.17(t, 1.5H, J=7.00 Hz), 2.36(s, 1.5H), 2.37(s, 1.5H), 2.52(s, 1.5H), 2.54(s, 1.5H), 3.35(q, 1H, J=7.00 Hz), 3.52(q, 1H, J=7.00 Hz), 4.15(s, 1H), 4.24(s, 1H), 4.57(s, 1H), 4.61(s, 1H), 7.05-7.19(m, 1H), 7.22-7.36(m, 9H), 7.47-7.62(m, 1H), 8.13-8.29(m, 1H).

reactant | 2-(4-methylphenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | CC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C17H16N2O2
reactant | N-benzyl-2-methoxyethylamine | C(C1=CC=CC=C1)NCCOC | C10H15NO
product | N-benzyl-N-ethyl-2-(4-methylphenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide | yield 54.6% | C(C1=CC=CC=C1)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)C)=O)CC | C26H27N3O
